US08420642B2
2-Bromo-5-isobutoxy-pyridine (0.38 mmol), sodium-tert.-butylate (1.4 eq.), and 1-methyl-1H-pyrazole-3-amine (1.2 eq.) are dissolved in degassed dioxane (2 ml) and heated to 80° C. Chloro-(di-2-norbornylphosphino)(2-dimethylaminoferrocene-1-yl)palladium (II) (3 mg) in degassed dioxane (1 ml) is added and the reaction is heated for 1 hour at 150° C. in the microwave. The reaction is quenched with ethylacetate methanol (30 ml, 9:1) and filtrated over celite. The solvent of the filtrate is removed in vacuo. (5-Isobutoxy-pyridine-2-yl)-(1-methyl-1H-pyrazole-3-yl)amine (“A26”) is obtained after reversed phase column chromatography (water/acetonitrile+0.1% TFA) as colorless powder in a yield of 33%; HPLC (method C): 1.57 min; LC-MS (method A): 0.936 min, 247.15 (M+H+);

reactant | 2-Bromo-5-isobutoxy-pyridine | 0.38 mmol | BrC1=NC=C(C=C1)OCC(C)C | C9H12BrNO
reactant | 1-methyl-1H-pyrazole-3-amine | 1.2 eq. | CN1N=C(C=C1)N | C4H7N3
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Chloro-(di-2-norbornylphosphino)(2-dimethylaminoferrocene-1-yl)palladium (II) | 3 mg | Cl[Pd-]([C-]1C(=CC=C1)N(C)C)P(C1C2CCC(C1)C2)C2C1CCC(C2)C1.[CH-]1C=CC=C1.[Fe+2]
product | (5-Isobutoxy-pyridine-2-yl)-(1-methyl-1H-pyrazole-3-yl)amine | yield of 33% | C(C(C)C)OC=1C=CC(=NC1)NC1=NN(C=C1)C | C13H18N4O
